US08247403B2
(2) 9-cyclopropyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-cyclopropyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (70.0 mg, 0.242 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (29.5 mg, 54.0%) as a solid.

reactant | tert-butyl 9-cyclopropyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.242 mmol, 70.0 mg | C1(CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H23NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-cyclopropyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 29.5 mg, 54.0% | Cl.C1(CC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C12H15NO.ClH/c1-2-10-8-13-6-7-14-12(10)11(3-1)9-4-5-9;/h1-3,9,13H,4-8H2;1H
